US08431575B2
To a stirred solution of 4-oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (14 g) in MeOH (300 mL) was added NaBH4 (12 g) in 12 lots over 1 h period. After completion of addition, the reaction mixture was stirred for 30 min. Removed solvent under reduced pressure, to the residue was added saturated NH4Cl solution (300 mL) and was extracted with EtOAc (300 mL). The organic layer was dried, filtered and concentrated under reduced pressure. The residue was purified by flash silica gel column chromatography by eluting with ethyl acetate to give 4-hydroxy-3-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (10.1 g, cis/trans mixture).

reactant | 4-oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 14 g | C(C)OC(=O)C1CN(CCC1=O)C(=O)OC(C)(C)C | C13H21NO5
reactant | NaBH4 | 12 g | [BH4-].[Na+]
reactant | NH4Cl | 300 mL | [NH4+].[Cl-]
solvent | MeOH | 300 mL | CO | CH4O
product | 4-hydroxy-3-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 10.1 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)O)CO | C11H21NO4
